US03981860
2,3:4,5-di-O-isopropylidene-β-D-fructopyranose
A mixture of 200 grams of D-fructose, 2 liters of acetone, 2 liters of pentane and 8 grams of ferric chloride is stirred and heated to reflux temperature. The reaction water is condensed and removed using a Dean-Stark type water separator. After the theoretical amount of water is removed, the mixture is cooled to 0°C., neutralized with 7 grams of sodium hydroxide in 10 milliliters of water and filtered. The filtrate is treated with 10 grams Norite SG, refiltered, and then concentrated to a syrup which is crystallized from ether-pentane to give 164.4 grams of product, m.p. 94°-95°C.

reactant | D-fructose | 200 grams | OCC(=O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | acetone | 2 liters | CC(=O)C | C3H6O
reactant | pentane | 2 liters | CCCCC | C5H12
solvent | water | O | H2O
product | 2,3:4,5-di-O-isopropylidene-β-D-fructopyranose | 164.4 grams | CC1(O[C@@H]2CO[C@@]3([C@H]([C@@H]2O1)OC(O3)(C)C)CO)C | C12H20O6
